US05589473
To a suspension of 110 g of aminoacetonitrile hydrochloride in 1.2 l of acetonitrile were added at 20° C. 121.5 g of triethylamine. The mixture was cooled in an acetone-ice bath and 144.7 g of allyl chloroformate were added slowly, the temperature being maintained below 20° C. Subsequently, 121.5 g of triethylamine were added at such a rate that the temperature did not rise above 20° C. The mixture was stirred at 20° C. for 2 h and then, the solids were removed by filtration. The mother liquor was concentrated in vacuo and the oily residue was partitioned between ethyl acetate and water. The organic layer was washed successively with saturated potassium hydrogen sulfate solution, saturated potassium hydrogen carbonate solution and brine, dried over magnesium sulfate and concentrated in vacuo. The residual oil was distilled in vacuo to yield 132.6 g of cyanomethyl-carbamic acid allyl ester as a colorless oil, b.p. 100° C./0.07 mbar.

reactant | aminoacetonitrile hydrochloride | 110 g | Cl.NCC#N
reactant | triethylamine | 121.5 g | C(C)N(CC)CC | C6H15N
reactant | allyl chloroformate | 144.7 g | ClC(=O)OCC=C | C4H5ClO2
reactant | triethylamine | 121.5 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 1.2 l | C(C)#N | C2H3N
product | cyanomethyl-carbamic acid allyl ester | 132.6 g | C(C=C)OC(NCC#N)=O | C6H8N2O2
